US05084085
To a stirred mixture of 10.0 g (0.021 mole) of 1-[2,4-dichloro-5-(2-chloro-4-nitrophenoxy) phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 100 ml of glacial acetic acid and 5 ml of water was added slowly 10.0 g (0.179 mole) of iron powder. The reaction mixture was heated at 50° C. and then was allowed to cool to room temperature at which it was stirred for 1.5 hours. The mixture was poured into ice-water, and the aqueous mixture was extracted with diethyl ether. The extract was evaporated under reduced pressure leaving a residue. This residue was purified by column chromatography to yield 8.5 g of 1-[5-(4-amino-2-chlorophenoxy)-2,4-dichlorophenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one as a solid, m.p. 161°-162° C., compound 180 of Table 1.

reactant | 1-[2,4-dichloro-5-(2-chloro-4-nitrophenoxy) phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.021 mole, 10.0 g | ClC1=C(C=C(C(=C1)Cl)OC1=C(C=C(C=C1)[N+](=O)[O-])Cl)N1N=C(N(C1=O)C(F)F)C | C16H9Cl3F2N4O4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
catalyst | iron | 0.179 mole, 10.0 g | [Fe] | Fe
product | 1-[5-(4-amino-2-chlorophenoxy)-2,4-dichlorophenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 8.5 g | NC1=CC(=C(OC=2C(=CC(=C(C2)N2N=C(N(C2=O)C(F)F)C)Cl)Cl)C=C1)Cl | C16H11Cl3F2N4O2
